US05389624
Under argon, 9.2 g of 17β-hydroxy-17α-methylandrosta-4,15-dien-3-one in 80 ml of triethanolamine is allowed to react at 110° C. with 2.1 ml of thiophenol and 2.1 ml of aqueous formaldehyde solution (37%). After 5 hours and another 18 hours, respectively 2.1 ml of thiophenol and 2.1 ml of formaldehyde solution are added. In total, the reaction mixture is stirred for 32 hours and subsequently introduced into ice/water. The precipitated product is suctioned off, washed with water, taken up in methylene chloride, dried, and concentrated under vacuum. After chromatographing the crude product on silica gel with a hexane-ethyl acetate gradient, 7.9 g of 17β-hydroxy-17α-methyl-4-(phenylthiomethyl)androsta-4,15-dien-3-one is obtained, mp 146.8° C. (from acetone/hexane).

reactant | 17β-hydroxy-17α-methylandrosta-4,15-dien-3-one | 9.2 g | O[C@@]1([C@]2(C)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C | C20H28O2
reactant | thiophenol | 2.1 ml | C1(=CC=CC=C1)S | C6H6S
reactant | formaldehyde | 2.1 ml | C=O | CH2O
reactant | thiophenol | 2.1 ml | C1(=CC=CC=C1)S | C6H6S
reactant | formaldehyde | 2.1 ml | C=O | CH2O
solvent | triethanolamine | 80 ml | N(CCO)(CCO)CCO | C6H15NO3
product | 17β-hydroxy-17α-methyl-4-(phenylthiomethyl)androsta-4,15-dien-3-one | 7.9 g | O[C@@]1([C@]2(C)[C@@H](C=C1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)CSC2=CC=CC=C2)C | C27H34O2S
